US07141561B2
1-[4-(2-Phenethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-[4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (50 mg) in acetonitrile (1 ml) was mixed with phenethylamine (47 mg), potassium carbonate (70 mg) and sodium iodide (5 mg) and boiled under reflux for 2 hours. The cooled solution was filtered and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 491.60 (C31 H29N3O3); MS (ESI): 492 ([M+H]+), was obtained as hydroformate in this way.

reactant | 1-[4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 50 mg | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H19BrN2O3
reactant | phenethylamine | 47 mg | C(CC1=CC=CC=C1)N | C8H11N
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-[4-(2-Phenethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | C(CC1=CC=CC=C1)NCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C31H29N3O3
